US07399759B2
2-(2-Methylthio-4-pyridyl)-4H-1,3-benzothiazine-4-one
Methyl thiosalicylate (0.76 g, 4.5 mmol) and 2-methylthioisonicotinonitrile (0.34 g, 2.3 mmol) were dissolved in toluene (2.0 ml). Triethylamine (0.70 ml, 5.0 mmol) was added thereto and the mixture was refluxed for 6 hrs. The reaction mixture was cooled at room temperature and the precipitated crystals were collected and recrystallized from ethanol to give the titled compound (0.11 g, 17%) as white crystals.

reactant | Methyl thiosalicylate | 4.5 mmol, 0.76 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-methylthioisonicotinonitrile | 2.3 mmol, 0.34 g | CSC=1C=C(C#N)C=CN1 | C7H6N2S
reactant | Triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methylthio-4-pyridyl)-4H-1,3-benzothiazine-4-one | 0.11 g, 17% | CSC1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2OS2
